US07265152B2
Preparation of 6-acetylamino-2-(4-fluoro-phenyl)-5-methoxy-benzofuran-3-carboxylic acid methylamide
Diisopropylethylamine (83.2 μL, 477 μmol), followed by acetic anhydride (239 μmol) were added to a solution of 6-amino-2-(4-fluoro-phenyl)-5-methoxy-benzofuran-3-carboxylic acid methylamide, prepared according to Example 17 (75 mg, 239 μmol) in dry trichloromethane (3 mL). After one hour, the reaction was quenched with water (3 mL). After concentration to dryness, the crude oil was purified by HPLC (reverse phase, C18, acetonitrile/water with 0.1% acetic acid) to provide 73 mg (87%) of the title compound.

reactant | Diisopropylethylamine | 477 μmol, 83.2 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetic anhydride | 239 μmol | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-amino-2-(4-fluoro-phenyl)-5-methoxy-benzofuran-3-carboxylic acid methylamide | CNC(=O)C1=C(OC2=C1C=C(C(=C2)N)OC)C2=CC=C(C=C2)F | C17H15FN2O3
solvent | trichloromethane | 3 mL | ClC(Cl)Cl | CHCl3
product | 6-acetylamino-2-(4-fluoro-phenyl)-5-methoxy-benzofuran-3-carboxylic acid methylamide | 73 mg, 87% | CNC(=O)C1=C(OC2=C1C=C(C(=C2)NC(C)=O)OC)C2=CC=C(C=C2)F | C19H17FN2O4
